US09145387B2
To a stirred solution of 1-(4-(4-(4-(2-aminophenoxy)-5-chloropyrimidin-2-ylamino)-3-methoxy phenyl)piperazin-1-yl)ethanone (75 mg, 0.16 mmol) in DCM (5 mL), DIPEA (42 mg, 0.33 mmol) and acryloyl chloride (15 mg, 0.165 mmol) were added at −78° C., and the mixture was stirred for 15 min. TLC showed completion of starting material (TLC system: 10% methanol in chloroform (Rf): 0.2). The reaction mixture was quenched with water (15 mL) and extracted with DCM (2×10 mL). The organic layer was separated, dried over sodium sulphate, and concentrated. Crude compound was purified by prep-HPLC to obtain N-(2-(2-(4-(4-acetylpiperazin-1-yl)-2-methoxyphenylamino)-5-chloropyrimidin-4-yloxy)phenyl) acrylamide as a yellow solid. (Yield: 28 mg, 33.7%). MS: m/z 523.2 (ES+, M+H). 1HNMR (DMSO-d6) δ 9.54 (s, 1H), 8.33 (s, 1H), 8.01 (s, 1H), 7.99 (br s, 1H), 7.25 (m, 4H), 6.56 (s, 1H), 6.50 (d, 1H, J=10.4 Hz), 6.22 (br s, 1H), 6.127 (s, 1H), 5.70 (dd, 1H, J=2.0, 10.4 Hz), 3.73 (s, 3H), 3.57 (m, 4H), 3.06 (br t, 2), 3.00 (br t, 2H), 2.03 (s, 3H).

reactant | 1-(4-(4-(4-(2-aminophenoxy)-5-chloropyrimidin-2-ylamino)-3-methoxy phenyl)piperazin-1-yl)ethanone | 0.16 mmol, 75 mg | NC1=C(OC2=NC(=NC=C2Cl)NC2=C(C=C(C=C2)N2CCN(CC2)C(C)=O)OC)C=CC=C1 | C23H25ClN6O3
reactant | DIPEA | 0.33 mmol, 42 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | acryloyl chloride | 0.165 mmol, 15 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | methanol | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(2-(2-(4-(4-acetylpiperazin-1-yl)-2-methoxyphenylamino)-5-chloropyrimidin-4-yloxy)phenyl) acrylamide | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)NC1=NC=C(C(=N1)OC1=C(C=CC=C1)NC(C=C)=O)Cl)OC | C26H27ClN6O4
